US08541461B2
59A. 1-(4-Bromo-phenyl)-3-chloro-propan-1-ol
To a solution of 1-(4-Bromo-phenyl)-3-chloro-propan-1-one (1 g, 4.04 mmol) in tetrahydrofuran (9 ml) and water (0.58 ml) was added sodium borohydride (0.16 g, 4.28 mmol). The reaction mixture was stirred at room temperature for 2 hours, quenched with careful addition of water and extracted with ethyl acetate. The organic layers were separated, dried (MgSO4), filtered and concentrated to afford the title compound, which was used in the next step without further purification. LC/MS: (PS-A2) Rt 3.07 [M+H]+ No ionization.

reactant | 1-(4-Bromo-phenyl)-3-chloro-propan-1-one | 4.04 mmol, 1 g | BrC1=CC=C(C=C1)C(CCCl)=O | C9H8BrClO
reactant | sodium borohydride | 4.28 mmol, 0.16 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | water | 0.58 ml | O | H2O
product | 1-(4-Bromo-phenyl)-3-chloro-propan-1-ol | BrC1=CC=C(C=C1)C(CCCl)O | C9H10BrClO
